US06046135
A mixture of ethyl 2-(2,3-dihydro-5-iodo-6-methyl-4-oxo-4H-1,3-oxazin-3-yl)-2-methylpropanoate (30.0 g), 2-(tributylstannyl)thiophene (33.5 ml), palladium bis-triphenylphosphine chloride (3.08 g) and lithium chloride (20.5 g) in tetrahydrofuran was heated at 50° C. for 24 hours. Further 2-(tributylstannyl)thiophene (2.8 ml) was added and the mixture heated for a further 18 hours. Palladium bis-triphenylphosphine chloride (0.62 g) was added and heating continued for 18 hours. The mixture was poured into water, extracted (ether) and the organic phase washed (brine), dried (magnesium sulphate) and evaporated. Purification by chromatography on silica gel gave ethyl [2,3-dihydro-6-methyl-4-oxo-5-(2-thienyl)-4H-1,3-oxazine-3-yl]-2-methylpropanoate (14.5 g), NMR 1.15(t,3H), 1.55(s,6H), 2.1(s,3H), 4.15(q,2H), 5.25(s,2H), 6.9-7.4(m,3H).

reactant | ethyl 2-(2,3-dihydro-5-iodo-6-methyl-4-oxo-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 30.0 g | IC=1C(N(COC1C)C(C(=O)OCC)(C)C)=O | C11H16INO4
reactant | 2-(tributylstannyl)thiophene | 33.5 ml | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | lithium chloride | 20.5 g | [Cl-].[Li+]
reactant | 2-(tributylstannyl)thiophene | 2.8 ml | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl [2,3-dihydro-6-methyl-4-oxo-5-(2-thienyl)-4H-1,3-oxazine-3-yl]-2-methylpropanoate | 14.5 g | CC1=C(C(N(CO1)C(C(=O)OCC)(C)C)=O)C=1SC=CC1 | C15H19NO4S
